US08557872B2
Step 2: Synthesis of 3-(2-sec-butoxy-4-fluoro-phenyl)-acrylic acid
3-(2-sec-Butoxy-4-fluoro-phenyl)-acrylic acid methyl ester (105 mg) was reacted with 1N LiOH (5 ml) in THF and CH3OH for 2 hrs as described above to yield title compound (82 mg)

reactant | 3-(2-sec-Butoxy-4-fluoro-phenyl)-acrylic acid methyl ester | 105 mg | COC(C=CC1=C(C=C(C=C1)F)OC(C)CC)=O | C14H17FO3
reactant | LiOH | 1N, 5 ml | [Li+].[OH-]
solvent | THF | C1CCOC1 | C4H8O
solvent | CH3OH | CO | CH4O
product | 3-(2-sec-butoxy-4-fluoro-phenyl)-acrylic acid | 82 mg | C(C)(CC)OC1=C(C=CC(=C1)F)C=CC(=O)O | C13H15FO3
